2200-03-19 07:40:00 Physician Resident Progress Note
Chief Complaint: 64M with HIV/AIDS on HAART, HBV, cirrhosis c/b
   esophageal and gastric varices and recent presentation for variceal
   bleed and now s/p successful TIPS
   24 Hour Events:
   - TIPS placed
   - transfused 2 units in afternoon, none overnight. No further bleeding.
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Rash;
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2200-3-18**] 06:41 PM
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Morphine Sulfate - [**2200-3-18**] 07:53 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-3-19**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**01**] AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 63 (59 - 85) bpm
   BP: 127/55(73) {106/44(63) - 134/62(78)} mmHg
   RR: 15 (10 - 21) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  2,887 mL
                                                                    262 mL
   PO:
             TF:
   IVF:
                                                                    187 mL
                                                                    262 mL
   Blood products:
                                                                    700 mL
   Total out:
                                                                  5,520 mL
                                                                    640 mL
   Urine:
                                                                  2,920 mL
                                                                    640 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,633 mL
                                                                   -378 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///29/
   Physical Examination
   General Cachectic, no acute distress
   HEENT anicteric, no bleeding in oropharynx, no thrush
   Pulm lungs clear bilaterally
   CV regular S1 S2 III/VI systolic murmur throughout precordium
   Abd soft mildly distended but soft and nontender +bowel sounds
   Extrem warm no edema palpable distal pulses
   Neuro alert and answering appropriately
   Derm multiple tattoos, no jaundice
   Labs / Radiology
   157 K/uL
   9.3 g/dL
   95 mg/dL
   1.1 mg/dL
   29 mEq/L
   3.2 mEq/L
   14 mg/dL
   109 mEq/L
   145 mEq/L
   27.0 %
   9.1 K/uL
        [image002.jpg]
                             [**2200-3-18**]  01:59 PM
                             [**2200-3-18**]  05:35 PM
                             [**2200-3-18**]  09:59 PM
                             [**2200-3-19**]  03:13 AM
   WBC
   4.6
   9.1
   Hct
   18.1
   25.9
   27.6
   27.0
   Plt
   144
   157
   Cr
   1.1
   1.1
   TropT
   <0.01
   <0.01
   Glucose
   141
   95
   Other labs: PT / PTT / INR:13.8/25.3/1.2, CK / CKMB /
   Troponin-T:101/3/<0.01, ALT / AST:48/75, Alk Phos / T Bili:130/1.9,
   Albumin:2.6 g/dL, Ca++:9.0 mg/dL, Mg++:1.9 mg/dL, PO4:3.1 mg/dL
   [**3-18**]
   hepB and hepC viral loads pending
   Assessment and Plan
   This 64M with HIV/AIDS on HAART, HBV, cirrhosis c/b esophageal and
   gastric varices and recent presentation for variceal bleed s/p failed
   TIPS returns with hematemesis.
   .
   * UGIB: Patient states his first ever UGIB was about 1 month ago. He
   had OSH EGD with confirmed varices. He presents now with recurrent
   hematemesis with HCT drop from recent baseline of 28 to 18. After
   several units blood overnight HCT has recovered steadily to 27 this
   morning. Bleed was immediately concerning for a recurrent variceal
   bleed in this complicated man with known esophageal and gastric
   varices.
   Now s/p successful TIPS placement
   - Continue octreotide today then d/c tomorrow
   - Change to [**Hospital1 7**] IV PPI
   - 5d course of ceftriaxone
   - Follow Hcts [**Hospital1 7**], transfuse Hct>25 or active bleed
   - RUQ u/s to check TIPS 1 week
   - Liver recs appreciated
   - start back nadolol today as BPs stable now
   .
   * Cirrhosis: Etiology is being worked up in the outpatient setting.
   Most likely hepatitis B related. Patient states he has been seeing Dr.
   [**Last Name (STitle) 1174**].  Per records, Hep B serologies are consistent with cleared
   hepatitis B. He also had prior CMV viral inclusions on biopsies.Workup
   to date includes negative AMA, negative ANCA and negative Alpha 1
   antitrypsin. Ferritin not indicative of hemachromatosis and recent
   ceruloplasmin labs still pending.
   - will check HBV and HCV viral loads as serologies may be falsely
   negative in setting of advanced immunosuppression (pt has AIDS by CD4)
   - f/up ceruloplasmin, A1AT
   - f/up liver recs
   . .
   * HIV/AIDS: Contact[**Name (NI) **] patient's outpatient ID physician [**Last Name (NamePattern4) **]. [**Last Name (STitle) 2956**] to
   verify HAART regimen above. She states he has had recent undetectable
   viral load on current combination of medications. Unclear how patient
   contracted virus, possible sexual contact vs. tattoos. Denies h/o IVDU.
   - continue outpatient HAART with boosted darunavir and lamivudine
   (should be 150mg [**Hospital1 7**] given CrCl)
   - continue dapsone prophylaxis
   .
   * HTN: Well controlled now and normotensive with SBPs 110-130s, recent
   low BPs in setting of GIB however
   - can restart on nadolol today
   .
   ICU Care
   Nutrition: can advance diet to clears/liquids now
   Glycemic Control:  SSI once eating
   Lines:
   18 Gauge - [**2200-3-18**] 02:00 PM
   20 Gauge - [**2200-3-18**] 02:00 PM
   16 Gauge - [**2200-3-18**] 02:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Communication:  Comments:
   Code status: Full code
   Disposition: call out to floor  today

2200-03-19 10:28:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - No further bleeding.
   - BP stable.
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Rash;
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2200-3-18**] 06:41 PM
   Ceftriaxone - [**2200-3-19**] 08:11 AM
   Infusions:
   Octreotide - 50 mcg/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Morphine Sulfate - [**2200-3-18**] 07:53 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-3-19**] 10:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**01**] AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.5
   HR: 67 (59 - 85) bpm
   BP: 129/53(71) {106/44(63) - 134/62(78)} mmHg
   RR: 18 (10 - 21) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  2,887 mL
                                                                    627 mL
   PO:
             TF:
   IVF:
                                                                    187 mL
                                                                    627 mL
   Blood products:
                                                                    700 mL
   Total out:
                                                                  5,520 mL
                                                                  1,020 mL
   Urine:
                                                                  2,920 mL
                                                                  1,020 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,633 mL
                                                                   -393 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///29/
   Physical Examination
   General Appearance: No acute distress, Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   9.3 g/dL
   157 K/uL
   95 mg/dL
   1.1 mg/dL
   29 mEq/L
   3.2 mEq/L
   14 mg/dL
   109 mEq/L
   145 mEq/L
   27.0 %
   9.1 K/uL
        [image002.jpg]
                             [**2200-3-18**]  01:59 PM
                             [**2200-3-18**]  05:35 PM
                             [**2200-3-18**]  09:59 PM
                             [**2200-3-19**]  03:13 AM
   WBC
   4.6
   9.1
   Hct
   18.1
   25.9
   27.6
   27.0
   Plt
   144
   157
   Cr
   1.1
   1.1
   TropT
   <0.01
   <0.01
   Glucose
   141
   95
   Other labs: PT / PTT / INR:13.8/25.3/1.2, CK / CKMB /
   Troponin-T:101/3/<0.01, ALT / AST:48/75, Alk Phos / T Bili:130/1.9,
   Albumin:2.6 g/dL, Ca++:9.0 mg/dL, Mg++:1.9 mg/dL, PO4:3.1 mg/dL
   Imaging: No new imaging.
   Microbiology: No micro.
   Assessment and Plan
   This 64 y/o male with HIV/AIDS on HAART and HBV cirrhosis c/b
   esophageal and gastric varices now s/p TIPS for recurrent variceal
   bleeding. Hemodynmically stable without further evidence of bleeding.
   #. UGIB: Most consistent with variceal bleed. S/p recent banding. Now
   resolved with TIPS procedure.
   - F/U IR recs
   - Continue PPI and octreotide drips (to end today)
   - Serial Hcts
   #. Cirrhosis: Unclear etiology, but could be due to HBV.
   - Liver consult
   - CTX prophylaxis x 5 days
   - Consider starting low dose BB today
   - HBV and HCV viral loads pending
   #. Hypoxia
   - Wean O2 as tolerated
   - CXR today
   - IS, OOB to chair
   #. HIV/AIDS
   - Continue outpatient HAART
   - Continue dapsone prophylaxis
   #. HTN
   - Hold antihypertensives in setting of GIB and starting propranolol
   today
   ICU Care
   Nutrition: Advance diet as tolerated.
   Glycemic Control:
   Lines:
   18 Gauge - [**2200-3-18**] 02:00 PM
   20 Gauge - [**2200-3-18**] 02:00 PM
   16 Gauge - [**2200-3-18**] 02:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes

2200-03-20 06:10:00 Physician Resident Progress Note
Chief Complaint: This 64M with HIV/AIDS on HAART, HBV, cirrhosis c/b
   esophageal and gastric varices s/p TIPS for variceal bleed with
   bradycardia and hypotension overnight
   24 Hour Events:
   - increased lamivudine to 150mg [**Hospital1 7**] (appropriate for his CrCl)
   - diet advanced to clears
   - called out to medical floor, but then called back in for
   bradycardia/hypotension
   - given one dose of nadolol 20mg at 5pm, then HRs decreasing to high
   40s-50s, SBP decreased to 70s, nadolol discontinued, given 1L NS bolus
   without response in BP so started on low dose levophed, BCx drawn. Hct
   down from 25-27 range down to 23.9 -> 1 unit pRBCs, now back to 31
   History obtained from Patient
   Allergies:
   History obtained from PatientSulfa (Sulfonamide Antibiotics)
   Rash;
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2200-3-18**] 06:41 PM
   Ceftriaxone - [**2200-3-19**] 08:11 AM
   Infusions:
   Norepinephrine - 0.06 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2200-3-19**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-3-20**] 06:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**01**] AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.3
C (97.4
   HR: 46 (46 - 76) bpm
   BP: 100/39(54) {76/35(46) - 130/61(77)} mmHg
   RR: 12 (12 - 22) insp/min
   SpO2: 93%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 66 Inch
           Total In:
                                                                  1,501 mL
                                                                  1,296 mL
   PO:
                                                                    580 mL
           TF:
   IVF:
                                                                    921 mL
                                                                  1,016 mL
   Blood products:
   280 mL
   Total out:
                                                                  1,810 mL
                                                                    115 mL
   Urine:
                                                                  1,810 mL
                                                                    115 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -309 mL
                                                                  1,181 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///25/
   Physical Examination
   .
   General: cachectic, no acute distress
   HEENT: PERRL,  anicteric sclerae, EOMI
   LUNGS: mild expiratory wheezes, no rhonchi
   CVS:  regular S1 S2 III/VI systolic murmur throughout precordium
   ABD: soft, mildly distended but soft and nontender +bowel sounds,
   ecchymoses on right lower abdomen unchanged
   Ext:  warm,  no edema, palpable distal pulses
   Neuro : alert and answering appropriately, moving all extremities
   Derm:  multiple tattoos, no jaundice
   Labs / Radiology
   191 K/uL
   7.9 g/dL
   109 mg/dL
   1.2 mg/dL
   25 mEq/L
   3.5 mEq/L
   15 mg/dL
   110 mEq/L
   141 mEq/L
   23.9 %
   8.2 K/uL
        [image002.jpg]
   Repeat HCT 31
                             [**2200-3-18**]  01:59 PM
                             [**2200-3-18**]  05:35 PM
                             [**2200-3-18**]  09:59 PM
                             [**2200-3-19**]  03:13 AM
                             [**2200-3-19**]  09:32 AM
                             [**2200-3-19**]  04:47 PM
                             [**2200-3-19**]  10:03 PM
                             [**2200-3-20**]  02:45 AM
   WBC
   4.6
   9.1
   9.7
   10.8
   8.2
   Hct
   18.1
   25.9
   27.6
   27.0
   26.5
   25.4
   27.9
   23.9
   Plt
   144
   157
   174
   234
   191
   Cr
   1.1
   1.1
   1.2
   TropT
   <0.01
   <0.01
   Glucose
   141
   95
   109
   Other labs: PT / PTT / INR:14.5/26.9/1.3, CK / CKMB /
   Troponin-T:101/3/<0.01, ALT / AST:46/61, Alk Phos / T Bili:139/1.5,
   Lactic Acid:1.5 mmol/L, Albumin:2.3 g/dL, LDH:183 IU/L, Ca++:7.0 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   This 64M with HIV/AIDS on HAART, HBV, cirrhosis c/b esophageal and
   gastric varices s/p TIPS for variceal bleed with bradycardia and
   hypotension overnight.
   # Bradycardia
 overnight dropped to high 30s range and stayed low in
   40-60 range after nadolol. [**Month (only) 51**] be associated with BB sensitivity along
   with poor PO lately as he has associated hypotension as well.  Did not
   require and atropine and slowly resolved.  EKG and presentation
   inconsistent for ACS, recent CEs negative.
   .
   - holding nadolol for now , favor norvasc
   -  continue IVFs gently , given boluses overnight
   .
   # Hypotension:  given recent leukocytosis there was concern for
   infection overnight but no fevers and  lactate 1.5 now, CXR
   unremarkable and no growth on blood cultures now.  He has poor overall
   PO intake as well which may be contributing. Additional medication
   effects from beta blocker also likely played a role.  On pressor
   briefly but this was discontinued.
   -f/up bld/ urine cultures
   -consider diagnostic paracentesis
   -trending WBCs, continue to watch for fevers
   .
   # UGIB: s/p TIPS and octreotide gtt, Hct decreased overnight, given 1
   unit of pRBCs, now stable at 31 on last check.
   .
   - Continue [**Hospital1 7**] IV PPI
   - 5d course of ceftriaxone / getting paracentesis today for check SBP
   - Follow Hcts [**Hospital1 7**], transfuse Hct>25 or active bleed
   - RUQ u/s to check TIPS 1 week
   - Liver recs appreciated
   .
   # Cirrhosis: Etiology is being worked up in the outpatient setting.
   Most likely hepatitis B related. Patient states he has been seeing Dr.
   [**Last Name (STitle) 1174**].  Per records, Hep B serologies are consistent with cleared
   hepatitis B. He also had prior CMV viral inclusions on biopsies.Workup
   to date includes negative AMA, negative ANCA and negative Alpha 1
   antitrypsin. Ferritin not indicative of hemachromatosis and recent
   ceruloplasmin labs still pending.
   - will check HBV and HCV viral loads as serologies may be falsely
   negative in setting of advanced immunosuppression (pt has AIDS by CD4)
   - f/up ceruloplasmin, A1AT
   - f/up liver recs
   . .
   # HIV/AIDS: Contact[**Name (NI) **] patient's outpatient ID physician [**Last Name (NamePattern4) **]. [**Last Name (STitle) 2956**] to
   verify HAART regimen above. She states he has had recent undetectable
   viral load on current combination of medications. Unclear how patient
   contracted virus, possible sexual contact vs. tattoos. Denies h/o IVDU.
   - continue outpatient HAART with boosted darunavir and lamivudine
   (should be 150mg [**Hospital1 7**] given CrCl)
   - continue dapsone prophylaxis
   .
   ICU Care
   Nutrition: Advanced to clears overnight, continue to advance, add
   Ensure shakes
   Glycemic Control:
   Lines:
   18 Gauge - [**2200-3-18**] 02:00 PM
   20 Gauge - [**2200-3-18**] 02:00 PM
   16 Gauge - [**2200-3-18**] 02:00 PM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: son [**Name (NI) 135**] [**Name (NI) **] [**Name (NI) 151**]. # [**Telephone/Fax (1) 14677**]
   Code status: Full code
   Disposition: ICU

2200-03-20 10:33:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - Became bradycardic and HoTN on nadolol. Unresponsive to IVF. Placed
   on levo overnight; now weaned off.
   - Pan cultured
   - 1 Unit of PRBC for volume. Hct stable.
   - Diet advanced to clears
   - Abd pain overnight
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Rash;
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2200-3-18**] 06:41 PM
   Ceftriaxone - [**2200-3-20**] 08:33 AM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2200-3-19**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-3-20**] 10:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**01**] AM
   Tmax: 37.1
C (98.7
   Tcurrent: 35.9
C (96.6
   HR: 47 (41 - 76) bpm
   BP: 99/47(60) {76/35(46) - 130/61(77)} mmHg
   RR: 17 (12 - 22) insp/min
   SpO2: 93%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 66 Inch
           Total In:
                                                                  1,501 mL
                                                                  1,993 mL
   PO:
                                                                    580 mL
                                                                     50 mL
   TF:
   IVF:
                                                                    921 mL
                                                                  1,663 mL
   Blood products:
   280 mL
   Total out:
                                                                  1,810 mL
                                                                    375 mL
   Urine:
                                                                  1,810 mL
                                                                    375 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -309 mL
                                                                  1,618 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///25/
   Physical Examination
   General Appearance: No acute distress, Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   10.3 g/dL
   255 K/uL
   109 mg/dL
   1.2 mg/dL
   25 mEq/L
   3.5 mEq/L
   15 mg/dL
   110 mEq/L
   141 mEq/L
   31.5 %
   11.8 K/uL
        [image002.jpg]
                             [**2200-3-18**]  01:59 PM
                             [**2200-3-18**]  05:35 PM
                             [**2200-3-18**]  09:59 PM
                             [**2200-3-19**]  03:13 AM
                             [**2200-3-19**]  09:32 AM
                             [**2200-3-19**]  04:47 PM
                             [**2200-3-19**]  10:03 PM
                             [**2200-3-20**]  02:45 AM
                             [**2200-3-20**]  07:45 AM
   WBC
   4.6
   9.1
   9.7
   10.8
   8.2
   11.8
   Hct
   18.1
   25.9
   27.6
   27.0
   26.5
   25.4
   27.9
   23.9
   31.5
   Plt
   144
   157
   174
   [**Telephone/Fax (3) 14702**]
   Cr
   1.1
   1.1
   1.2
   TropT
   <0.01
   <0.01
   <0.01
   Glucose
   141
   95
   109
   Other labs: PT / PTT / INR:14.5/26.9/1.3, CK / CKMB /
   Troponin-T:69/3/<0.01, ALT / AST:46/61, Alk Phos / T Bili:139/1.5,
   Lactic Acid:1.5 mmol/L, Albumin:2.3 g/dL, LDH:183 IU/L, Ca++:7.0 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.0 mg/dL
   Imaging: No new imaging.
   Microbiology: No new micro.
   Assessment and Plan
   This 64 y/o male with HIV/AIDS on HAART and HBV cirrhosis c/b
   esophageal and gastric varices now s/p TIPS for recurrent variceal
   bleeding. Hemodynmically stable without further evidence of bleeding.
   #. HoTN and bradycardia: Likely [**12-31**] nadolol administration. Now
   resolved. Will follow. Pan cultured.
   - Diagnostic para today to r/o SBP given abdominal pain overnight
   #. UGIB: Most consistent with variceal bleed. S/p recent banding. Now
   resolved with TIPS procedure. Hct stable with appropriate bump after 1
   unit for HoTN.
   - Continue PPI
   #. Cirrhosis: Unclear etiology, but could be due to HBV.
   - Liver consult
   - CTX prophylaxis x 5 days
   - HBV viral loads pending; HCV undectable
   #. Hypoxia: CXR clear. H/o smoking.
   - Wean O2 as tolerated for goal O2 sat 89-92%
   - IS, OOB to chair
   #. HIV/AIDS
   - Continue outpatient HAART
   - Continue dapsone prophylaxis
   #. HTN
   - Hold antihypertensives in setting of GIB and HoTN overnight
   #. FEN: Nutrition consult for cachexia
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2200-3-18**] 02:00 PM
   20 Gauge - [**2200-3-18**] 02:00 PM
   16 Gauge - [**2200-3-18**] 02:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill